US06514971B1
A solution of 4,6-dichlorocinnoline (200 mg, 1 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (169 mg, 1.2 mmol), (prepared as described for the starting material in Example 11), in 2-pentanol (4 ml) containing 7M isopropanolic hydrogen chloride (2 drops) was heated at reflux for 45 minutes. After cooling the solid was filtered off, washed with isopropanol followed by ether to give 6-chloro-4-(2-fluoro-5-hydroxy-4-methylanilino)cinnoline hydrochloride (326 mg, 95%).

reactant | 4,6-dichlorocinnoline | 1 mmol, 200 mg | ClC1=CN=NC2=CC=C(C=C12)Cl | C8H4Cl2N2
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.2 mmol, 169 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | 2-pentanol | 4 ml | CC(CCC)O | C5H12O
catalyst | hydrogen chloride | 7M, 2 drops | Cl | ClH
product | 6-chloro-4-(2-fluoro-5-hydroxy-4-methylanilino)cinnoline hydrochloride | 326 mg, 95% | Cl.ClC=1C=C2C(=CN=NC2=CC1)NC1=C(C=C(C(=C1)O)C)F | InChI=1S/C15H11ClFN3O.ClH/c1-8-4-11(17)13(6-15(8)21)19-14-7-18-20-12-3-2-9(16)5-10(12)14;/h2-7,21H,1H3,(H,19,20);1H
